US07538123B2
(2) 3-Allyl-4-methoxyaniline
15.0 g of 1-allyl-2-methoxy-5-nitrobenzene, 33.4 g of ammonium chloride, and 17.5 g of iron were suspended in 270 ml of ethanol and 55 ml of water. The reaction solution was heated to reflux for 1 hour. Thereafter, the reaction solution was cooled to a room temperature, and insoluble matters were then removed by filtration. The filtrate was concentrated under a reduced pressure. The residue was diluted with ethyl acetate and then washed with a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate), so as to obtain 11.1 g of the subject compound.

reactant | 1-allyl-2-methoxy-5-nitrobenzene | 15.0 g | C(C=C)C1=C(C=CC(=C1)[N+](=O)[O-])OC | C10H11NO3
reactant | ammonium chloride | 33.4 g | [Cl-].[NH4+]
solvent | ethanol | 270 ml | C(C)O | C2H6O
solvent | water | 55 ml | O | H2O
catalyst | iron | 17.5 g | [Fe] | Fe
product | 3-Allyl-4-methoxyaniline | 11.1 g | C(C=C)C=1C=C(N)C=CC1OC | C10H13NO
